US05494911
49. N-(4,6-dimethyl-2-pyrazinyl)-5-methylisoxazole-4-carboxamide (of melting point 222° to 226° C.)
from 5-methylisoxazole-4-carbonyl chloride and 2-amino-4,6-dimethylpyrazine.

reactant | 5-methylisoxazole-4-carbonyl chloride | CC1=C(C=NO1)C(=O)Cl | C5H4ClNO2
reactant | 2-amino-4,6-dimethylpyrazine | NC1=NC(=CN(C1)C)C | C6H11N3
product | N-(4,6-dimethyl-2-pyrazinyl)-5-methylisoxazole-4-carboxamide | CN1CC(=NC(=C1)C)NC(=O)C=1C=NOC1C | C11H14N4O2
